US08748429B2
(5R,8S,9S)-9-amino-8-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
In a 50 mL round-bottomed flask was dissolved (5R,8S,9S)-9-(tert-butoxycarbonylamino)-8-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (38.1 mg, 0.060 mmol) in methylene chloride (1 mL) to give a colorless solution. trifluoroacetic acid (0.5 mL) was added, and the mixture was stirred at rt for 1 h. LCMS showed complete conversion. Volatiles were removed in vacuo, and the residue was partitioned between ethyl acetate/0.5N sodium hydroxide/saturated sodium bicarbonate solution. The layers were separated. The organic layer was dried and concentrated to give a tan oil. flash column chromatography up to 10% methanol (2M ammonia) in methylene chloride afforded the desired product (22 mg, 69%) as a white solid: MS (ESI)[M+H+]=536.2; 1H NMR (400 MHz, CDCl3) δ 8.50 (s, 2H), 8.11 (d, J=4.9 Hz, 1H), 7.42 (s, J=16.5 Hz, 1H), 7.17-6.95 (m, 4H), 6.24-5.97 (m, 2H), 4.69-4.34 (m, 4H), 3.31-2.81 (m, 3H), 2.37 (dd, J=23.5, 13.6 Hz, 4H), 2.17-1.67 (m, 6H); 19F NMR (376 MHz, CDCl3) δ −137.10-−137.50 (m), −142.45 (d, J=20.6 Hz).

reactant | (5R,8S,9S)-9-(tert-butoxycarbonylamino)-8-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.060 mmol, 38.1 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=NC=CN=C21)NC(=O)OC(C)(C)C)C2=C(C(=CC=C2)F)F | C32H35F2N7O5
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | 2M | CO | CH4O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (5R,8S,9S)-9-amino-8-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 22 mg, 69% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=NC=CN=C21)N)C2=C(C(=CC=C2)F)F | C27H27F2N7O3
